US04246181
0.06 mole (10 g) 2,5-dimethoxy paraphenylene diamine is introduced into a liter of anhydrous isopropyl ether. 21 g silver oxide and 48 g anhydrous sodium sulfate are then added to the same. The resulting mixture is heated at reflux for 6 hours, while maintaining good agitation. After cooling the reaction mixture the sodium sulfate and the silver are filtered out and the filtrate is evaporated to dryness under vacuum. The dry residue which is the above diimine, after recrystallization from a benzene-petroleum ether mixture, yields pure 2,5-dimethoxy benzoquinone diimine having a melting point of 184°.

reactant | 2,5-dimethoxy paraphenylene diamine | 0.06 mole, 10 g | COC1=C(C=C(C(=C1)N)OC)N | C8H12N2O2
reactant | sodium sulfate | 48 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | silver oxide | 21 g | [Ag]=O
solvent | isopropyl ether | a liter | C(C)(C)OC(C)C | C6H14O
product | 2,5-dimethoxy benzoquinone diimine | COC=1C(C=C(C(C1)=N)OC)=N | C8H10N2O2
